US04533688
(a) 4-Amino-1,2,2,6,6-pentamethylpiperidine
The procedure described in Preparation 1(a) was repeated, but using as starting materials 1,2,2,6,6-pentamethyl-4-piperidone and ammonia, to give the title compound, boiling at 76°-79.5° C./5 mmHg (667 Pascals).

reactant | 1,2,2,6,6-pentamethyl-4-piperidone | CN1C(CC(CC1(C)C)=O)(C)C | C10H19NO
reactant | ammonia | N | H3N
product | 4-Amino-1,2,2,6,6-pentamethylpiperidine | NC1CC(N(C(C1)(C)C)C)(C)C | C10H22N2
